US06211215B1
In substantially the same manner as in Working Example 48, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 5-chloromethyl-2-isopropyl benzoxazole to give 5-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-isopropyl-benzoxazole. The yield was 59%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 76-77° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 5-chloromethyl-2-isopropyl benzoxazole | ClCC=1C=CC2=C(N=C(O2)C(C)C)C1 | C11H12ClNO
product | 5-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-isopropyl-benzoxazole | yield was 59% | N1(C=NC=C1)CCCC1=CC=C(OCC=2C=CC3=C(N=C(O3)C(C)C)C2)C=C1 | C23H25N3O2
